data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,6712,"CC1=CC=C(S(=O)(=O)[O-:1])C=C1.OC1([N+:2]2([H:3])CCOCC2)CCCC1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6765,"C[CH:1]=[O+:2]C.C[Si](C)(C)[O:3]C|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4971,"CC[NH:1]C(C)O.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3093,"C[O:1][H:2].OCCCC[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8068,"OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CC[C:1]2(CC1)[OH+:2]CC[O:3]2|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9212,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCC1=C[C:1]2(C[CH2:2]2)[CH:3]=[CH:4][C:5]1=[O+:6]C.OC=[O:7]|(7, 2);((2, 1), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,10203,"CO[P+:1](Cl)(OC)[H:2].C[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8130,"CO[C:1]1([O-:2])OCCC[O:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9193,"CO.O=C(O)C1CC2=CC=C(O)[CH+:1][C:2]2([H:3])CN1.[Cl-].[OH2:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,7871,"O=[N+]([O-])C1=CO[CH:1]=[CH:2]1.[Br:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3980,"C1=C([I:1])CCCC1.C[C:2](C)(C)[Li:3]|((3, 2), 1)"
train,pmechdb_split_0,0,10120,"C[Si-:1](C)(C)(F)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,7433,"CN(C)[C:1]1([O-:2])OCC[O:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8144,"CO[C:1]1=[CH:2]OC=C1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,7893,"COC1=C2OC3C45CCN(CCC6=CC=CC=C6)C(CC(=C24)C=C1)C5(O)CC[C:1]3=[O:2].N[NH2:3].O.OCCOCCO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4365,"CC(=O)[O:1][H:2].COC1=CC=C(C2C(=CC3=CC=C(O)C=C3)C(NC3=C(O)C=CC=C3)([OH:3])C(=O)N2C2=CC=CC=C2)C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7465,"CCSCCC(C)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2284,"C[CH:1]=[O:2].O=P(O)(O)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3757,"CCCCCC1=C[C:1]([C:2](C)([CH:3](C2=CC=C(C)C=C2)[OH2+:4])[OH:5])=CC=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3539,"C1=CC=[N+:1]([H:2])C=C1.CN=C=[N:3]C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6667,"C[CH:1]=[CH2:2].O=S(=O)(C1=C2C=CC=CC2=CC=C1)[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,4515,"CC(C)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10131,"CCOC(N(CC1=CC=CC=C1)C(C=[C+:1]C[Si](C)(C)C)C1=CC=CC=C1)=[O:2].CC[O][Sn-]([Cl])([Cl])([Cl])[Cl]|(2, 1)"
train,pmechdb_split_0,0,9409,"CC(=O)C=CC=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2094,"CCC(C)[O-:1].O=S(=O)(O[S:2](=O)(C(F)(F)F)=[O:3])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,855,"CCC1=C(O)C=C(C2O[C:1]([O-:2])([O:3]C)CC2C(=O)OC)C=C1.CO.C[OH+][Na]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7015,"CC(=O)O.CC(=O)OI1OC(=O)C2=C1C=CC=C2.CCN1C(C=O)CC2(C34CC(CO[I:1]5(OC(C)=O)([O:2]C(C)=O)OC(=O)C6=C5C=CC=C6)N(CC)C3NC3=CC=CC=C34)C3=CC=CC=C3NC12|((1, 2), 2)"
train,pmechdb_split_0,0,3401,"CCCCC(=O)C1=C(O)C=CC(Br)=C1.O=C(O)C(F)(F)F.O=[N+]([O-])C1=CC=C([CH:1]([NH+:2]2CCCC2C2=NN=NN2)[O-:3])C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2530,"COC1=C2OC3C(=[N+:1](N)[H:2])CCC4(O)C5CC(=C2C34CCN5C)C=C1.O.OCCOCCO.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2533,"CCNC(O[C:1](CNC(=O)OC(C)(C)C)=[O:2])=[N:3]C|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2765,"CC[Si](CC)(CC)[O:1][C:2]12CCC[CH:3]1CC(OC)C1C3CCCC3C[C+:4]12.C[O][Sn-]([Cl])([Cl])([Cl])[Cl]|(1, 2);((2, 3), 4)"
train,pmechdb_split_0,0,9969,"CCO[C:1]1=[CH:2]C=CC=C1.C[CH+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,7295,"C[CH:1]([N:2](C)C)[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7659,"O=CCC[OH:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9810,"CC1=CC=C[N:1]=[CH:2]1.[NH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6397,"CSC(OC(=O)C(F)(F)F)C(OCC1=CC=CC=C1)C1OC(C)(C)OC1C(C[S+](C)[O-:1])OCC1=CC=CC=C1.O=C(O)C(F)(F)F.O=C(O[C:2](C(F)(F)F)=[O:3])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8392,"CC1=CC=C(S(=O)(=O)[O:1][CH:2]2CC(C)CC(C)C2OC(C)=[O:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5386,"CC(C)(C)[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.C[C+:5]=O|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,4246,"C1=CC2=C(C=C1)C[C:1]([N:2]1CCCC1)([OH2+:3])C2.CC1=CC=C(S(=O)(=O)[O-])C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3934,"CN(C)P(=O)(N(C)C)N(C)C.COC1=CC=C(COCCCC#CC=[O+:1][H:2])C=C1.C[NH:3]C.O=P([O-])([O-])O.[Li+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2996,"CC(=O)[O:1][H:2].O=C1C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[CH:3]=[C:4]([O-:5])N1C1=CC=CC=C1|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6015,"O=[N+]([O-])C1=CC=C[CH:1]=[CH:2]1.O=[S+:3](=O)O|((2, 1), 3)"
train,pmechdb_split_0,0,8237,"C1CCN2CCCC[N:1]=C2C1.COC(=O)[C:2](C=CC1=CC=CC=C1)(N=NNS(=O)(=O)C1=CC=C(NC(C)=O)C=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5169,"CCOC(=O)[C:1](C(C)C(C)=O)([O-:2])[O:3]CC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1462,"CCO[C+:1]1C=CC=C[C:2]1(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,8043,"C[C:1]1(C)C(C2=CC=CC=C2)[Br+:2]1.[Br-:3]|(3, 1);((1, 2), 2)"
